US08486946B2
Step 2: Preparation of ethyl-3-(3-chloro-2-fluorophenyl)-2-hydrazinylidene-3-oxopropanoate
To a solution of ethyl 3-(3-chloro-2-fluorophenyl)-2-diazo-3-oxopropanoate (1.28 g, 4.73 mmol) in dioxane (12 mL) was added tri-n-butylphosphine (1.23 mL, 4.97 mmol). After stirring for 10 minutes at ambient temperature, the mixture was concentrated in vacuo and the residue was purified by silica gel gradient chromatography (100:0 to 40:60 hexane:ethyl acetate), providing the titled compound.

reactant | ethyl 3-(3-chloro-2-fluorophenyl)-2-diazo-3-oxopropanoate | 4.73 mmol, 1.28 g | ClC=1C(=C(C=CC1)C(C(C(=O)OCC)=[N+]=[N-])=O)F | C11H8ClFN2O3
reactant | tri-n-butylphosphine | 4.97 mmol, 1.23 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
product | ethyl-3-(3-chloro-2-fluorophenyl)-2-hydrazinylidene-3-oxopropanoate | C(C)OC(C(C(=O)C1=C(C(=CC=C1)Cl)F)=NN)=O | C11H10ClFN2O3
